US09062028B2
Step A. 4-(2,3-Dimethylphenoxy)-1-(5-(2-(piperazin-1-yl)pyridin-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one
The title compound was prepared using a procedure analogous to 4-(2,3-dimethylphenoxy)-1-(5-(4-(hydroxymethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one except that 4-(hydroxymethyl)phenylboronic acid was replaced by 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine. LCMS, [M+H]+=485.3. 1H NMR (400 MHz, CDCl3) δ 8.21 (d, J=5.1 Hz, 1H), 7.22-7.28 (m, 2H), 7.07-7.13 (m, 1H), 7.03 (t, J=7.9 Hz, 1H), 6.76 (d, J=7.5 Hz, 1H), 6.67 (d, J=8.1 Hz, 1H), 6.53 (s, 1H), 6.50 (d, J=5.9 Hz, 1H), 3.98 (t, J=5.7 Hz, 2H), 3.80 (t, J=6.9 Hz, 2H), 3.47-3.59 (m, 4H), 2.95-3.04 (m, 4H), 2.77 (t, J=7.3 Hz, 2H), 2.53 (t, J=6.5 Hz, 2H), 2.16-2.27 (m, 5H), 2.00 (br. s, 3H), 1.85 (quin, J=6.7 Hz, 2H).

reactant | 4-(2,3-dimethylphenoxy)-1-(5-(4-(hydroxymethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC=C(C=C2)CO)C=CC=C1C | C28H31NO3
reactant | 4-(hydroxymethyl)phenylboronic acid | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine | CC1(OB(OC1(C)C)C1=CC(=NC=C1)N1CCNCC1)C | C15H24BN3O2
product | 4-(2,3-Dimethylphenoxy)-1-(5-(2-(piperazin-1-yl)pyridin-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC(=NC=C2)N2CCNCC2)C=CC=C1C | C30H36N4O2
